US05352820
Trifluoromethanesulfonic acid 6-methoxy-2-naphthalenyl ester
To a 0° C. solution of 0.50 g of 6-methoxy-2-naphthol in 1.4 ml of dry pyridine is added 0.49 ml of triflic anhydride. The reaction is allowed to warm to room temperature and stirred for 24 hours. The mixture is poured into a solution of 50 ml of water and 50 ml of diethyl ether. The aqueous layer is extracted three times with diethyl ether and the combined organic layers are dried, filtered and concentrated in vacuo. The residue is purified by chromatography (silica gel: ethyl acetate/hexane) to give 0.67 g (76% yield) of the desired product as a colorless oil.

reactant | 6-methoxy-2-naphthol | 0.50 g | COC=1C=C2C=CC(=CC2=CC1)O | C11H10O2
reactant | triflic anhydride | 0.49 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | water | 50 ml | O | H2O
reactant | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | pyridine | 1.4 ml | N1=CC=CC=C1 | C5H5N
product | Trifluoromethanesulfonic acid 6-methoxy-2-naphthalenyl ester | 0.67 g, 76% yield | COC=1C=C2C=CC(=CC2=CC1)OS(=O)(=O)C(F)(F)F | C12H9F3O4S
